US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2-methylphenylimino)-4-thiazoline
Obtained by a procedure analogous to that indicated in Example 2 (a), from 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2-methylphenylimino)-4-thiazoline hydrobromide with triethylamine in methanol. Colorless crystals from methanol/ethyl acetate; melting point 158°-162° C.

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2-methylphenylimino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C=CC=C1)C)C)S(N(C)C)(=O)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2-methylphenylimino)-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C=CC=C1)C)C)S(N(C)C)(=O)=O | C19H20ClN3O2S2
